US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 91 mg (0.55 mmol) of ethyl 4-amino-benzoate. After purification by chromatography on silica (eluent dichloromethane/methanol 96/4) then trituration in methanol, 4 mg (2%) of 8-(4-ethoxycarbonyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | ethyl 4-amino-benzoate | 0.55 mmol, 91 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 8-(4-ethoxycarbonyl-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 4 mg, 2% | C(C)OC(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C20H17N3O5S.C3H6O2/c1-2-28-20(25)12-3-5-13(6-4-12)23-29(26,27)14-7-8-17-16(11-14)15-9-10-21-18(15)19(24)22-17;1-2-3(4)5/h3-11,21,23H,2H2,1H3,(H,22,24);2H2,1H3,(H,4,5)/p-1
